### PR TITLE
Don't suggest Proof using when no section variables

### LINKED ISSUE #12447: Proof using suggestion appear even outside sections
#### Description of the problem
Proof Using suggestion appear even for proofs outside sections.
Is it intended? It forces IDEs to be smart about inserting the proposed annotations.
Proof using annotations are allowed outside section but mainly useless, aren't they?

```
Lemma foo: forall x :nat, x = x.
Proof.
(* Print titi. *)
  intro.
  auto.
Qed.
```
==>
```
The proof of foo should start with one of the following commands:
Proof using . 
Proof using All. 
Proof using Type*. 
Proof using Type.
```
#### Coq Version
master

### PR DESCRIPTION
**Pull request by SkySkimmer**
Fix #12447

### CODE REVIEW

File: test-suite/output/SuggestProofUsing.v [hunk 1]
```diff
@@ -28,4 +40,15 @@ Section Sec.
...
+  (* No suggest, is this OK? There's nowhere to put it anyway. *)
+  Program Definition program : nat := _.
+  Next Obligation. exact 1. Qed.
+
+  (* Must not suggest *)
+  Lemma sec_abstract : nat.
+  Proof. abstract exact 3. Defined.
+
+  (* Suggests even though there's nowhere to put it, bug? *)
+  Lemma sec_exactproof : bool. Proof true.
```
Comment (SkySkimmer) [inline test-suite/output/SuggestProofUsing.v:52]: This remains a bit dubious, I guess we can say it's one reason to avoid `Proof term.`.

**Review by ejgallego — APPROVED** [review]
I guess these tests should be eventually moved out of here? For now the fix is OK and IMO a bit important as things result too noisy otherwise for some sub-standard setups.

**Comment by SkySkimmer** [comment]
What's going on with mtac2 https://gitlab.com/coq/coq/-/jobs/585219437 ?
cc @Janno

**Comment by Janno** [comment]
That's Unicoq which @beta-ziliani has been doing some work on very recently.

**Comment by gares** [comment]
Thanks @SkySkimmer !

**Comment by beta-ziliani** [comment]
I don't get it, should I do something? It compiled in my computer, but after a recent pull from coq/master it isn't anymore, but for a complete different reason.

**Comment by ejgallego** [comment]
@beta-ziliani , the mtac2 test cases seem to be failing, @Janno thinks updates to unicoq could be related; indeed it would be great to know how can we restore the tests of mtac2 on your side

[For example it would perfectly fine to pin unicoq to a stable version on our side]

**Comment by beta-ziliani** [comment]
I see what the problem is, sorry. There must be something wrong in the Make file (or something), since it was running with the old library instead of the freshly compiled one. For the moment, please pin to `68ed13294ea8860a8c39950f7ca2ff0aa7211b9f`

**Comment by ejgallego** [comment]
Thanks @beta-ziliani , #12482 should fix that. Please notify us when we should bump the unicoq ref to a more up-to-date version so the CI doesn't end up testing a stable version.

[For example that's important so we can submit overlays in case of Coq API changes]
